US08039469B2
Step 2: Preparation of 1-methyl-3-[4-(4-morpholin-4-yl-6-{4-[(pyridin-4-ylcarbamoyl)amino]phenyl}-1,3,5-triazin-2-yl)phenyl]urea
The title compound was prepared by following the procedure of example 462 step 7 using 1-(4-(4-(4-aminophenyl)-6-morpholino-1,3,5-triazin-2-yl)phenyl)-3-methylurea and phenyl pyridin-4-ylcarbamate. Yield 75 mg, 3.9% yield.

reactant | 1-(4-(4-(4-aminophenyl)-6-morpholino-1,3,5-triazin-2-yl)phenyl)-3-methylurea | NC1=CC=C(C=C1)C1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(C=C1)NC(=O)NC | C21H23N7O2
reactant | phenyl pyridin-4-ylcarbamate | N1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C12H10N2O2
product | 1-methyl-3-[4-(4-morpholin-4-yl-6-{4-[(pyridin-4-ylcarbamoyl)amino]phenyl}-1,3,5-triazin-2-yl)phenyl]urea | 3.9% yield | CNC(=O)NC1=CC=C(C=C1)C1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(C=C1)NC(NC1=CC=NC=C1)=O | C27H27N9O3
